### PR TITLE
feat: miscellaneous lemmas about local homeomorphisms

### PR DESCRIPTION
**Pull request by grunweg**
- variant of extend_left_inv', stated in terms of images (instead of point-wise)
- variant of map_source', stated for images of subsets (instead of point-wise)
- a local homeomorphism and its inverse are open on its source

### CODE REVIEW

**Comment by grunweg** [comment]
It might be possible to golf the last two lemmas using results of #7655; I haven't checked closely yet.

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 1]
```diff
@@ -443,6 +447,17 @@ theorem preimage_open_of_open {s : Set β} (hs : IsOpen s) : IsOpen (e.source 
...
 #align local_homeomorph.preimage_open_of_open LocalHomeomorph.preimage_open_of_open
 
+/-- A local homeomorphism is an open map on its source. -/
+lemma isOpenMapOn_source {s : Set α} (hs : IsOpen s) (hse : s ⊆ e.source) : IsOpen (e '' s) := by
+  rw [(image_eq_target_inter_inv_preimage (e := e) hse)]
+  exact e.continuous_invFun.preimage_open_of_open e.open_target hs
+
+/-- The inverse of a local homeomorphism `e` is an open map on `e.target`. -/
+lemma isOpenMapOn_target_symm {t : Set β} (ht : IsOpen t) (hte : t ⊆ e.target) :
+    IsOpen (e.invFun '' t) := by
```
Comment (sgouezel) [inline Mathlib/Topology/LocalHomeomorph.lean:457]:
```suggestion
    IsOpen (e.symm '' t) := by
```
Normally, we only go through the coercion, i.e., we never write `e.toFun` or `e.invFun`, but rather `e` and `e.symm`. Also, this lemma should be a direct application of the previous one, no need to redo the proof.

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 2]
```diff
@@ -443,6 +447,17 @@ theorem preimage_open_of_open {s : Set β} (hs : IsOpen s) : IsOpen (e.source 
   e.continuousOn.preimage_open_of_open e.open_source hs
 #align local_homeomorph.preimage_open_of_open LocalHomeomorph.preimage_open_of_open
 
+/-- A local homeomorphism is an open map on its source. -/
+lemma isOpenMapOn_source {s : Set α} (hs : IsOpen s) (hse : s ⊆ e.source) : IsOpen (e '' s) := by
```
Comment (sgouezel) [inline Mathlib/Topology/LocalHomeomorph.lean:451]: the lemma name should most often match rather closely the statement, instead of trying to convey an informal meaning, because people can invent a lot of informal meaning, while it is much easier to guess the right statement. It could be something like: `isOpen_image_of_subset_source`.

File: Mathlib/Data/Set/Function.lean [hunk 3]
```diff
@@ -221,6 +221,10 @@ theorem EqOn.image_eq (heq : EqOn f₁ f₂ s) : f₁ '' s = f₂ '' s :=
   image_congr heq
 #align set.eq_on.image_eq Set.EqOn.image_eq
 
+/-- Variant of `EqOn.image_eq`, for one function being the identity. -/
+theorem EqOn.image_eq' {f : α → α} (h : Set.EqOn f id s) : f '' s = s := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Function.lean:225]:
```suggestion
theorem EqOn.image_eq_self {f : α → α} (h : Set.EqOn f id s) : f '' s = s := by
```

**Comment by grunweg** [comment]
Same here: thank you for the review, and for re-explaining the naming convention to me. I have addressed all comments.

**Comment by sgouezel** [comment]
bors r+
maintainer merge
Thanks!
